US04611002
O-(3-Acetylthiopropanoyl)glycolic Acid
3-(Acetylthio)propanoic acid (2.96 g) and 1,1'-carboxyldiimidazole (3.24 g) are dissolved in 20 ml of dry tetrahydrofuran with stirring at room temperature. After twenty minutes, a solution of glycolic acid (1.52 g) and 2.80 ml of triethylamine in 15 ml of dry tetrahydrofuran are added. The reaction mixture is stored overnight at room temperature. The tetrahydrofuran is removed in vacuo, the crude residue taken up into ethyl acetate, washed with 1N hydrochloric acid and three times with water, dried over magnesium sulfate and the O-(3-acetylthiopropanoyl)glycolic acid is concentrated to dryness in vacuo, yield 3.9 g. This is dissolved in ether and dicyclohexylamine is added. The dicyclohexylamine salt precipitates, yield 2.85 g.; m.p. 150-157° . The salt is converted to the free acid by adding to ethyl acetate and adding 10% potassium bisulfate solution, yield 1.5 g.

reactant | 3-(Acetylthio)propanoic acid | 2.96 g | C(C)(=O)SCCC(=O)O | C5H8O3S
reactant | glycolic acid | 1.52 g | C(CO)(=O)O | C2H4O3
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | O-(3-Acetylthiopropanoyl)glycolic Acid | C(C)(=O)SCCC(=O)OC(CO)=O | C7H10O5S
